Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
neutropenic fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
___ with follicular lymphoma with aggressive features on C5D9
Rit/CHOP, with Neulasta on ___, presenting with severe 
weakness
and dyspnea on exertion, with moderate neutropenia and possible
pneumonia.

She was seen by her oncologist Dr. ___ on ___ with 
plan
for C5 of Rit/CHOP that day. Plan was to taper prednisone again
at the end. Vincristine was decreased to 1mg given mild
paresthesias in fingers. 

She was seen in her PCP's office today with weakness. Vital 
signs
were T98.1 98/62 HR86 100% RA. She reported her last treatment
was the most difficult so far. She reports new dyspnea on
exertion noticed while going up and down the stairs, fatigue,
noise in ears, excessive flatulence. She denies any fever,
chills, nausea, vomiting, sore throat, cough, pain, body aches,
diarrhea, constipaton, dysuria. 

CXR was obtained the office which showed "Density in the lingula
which may represent atelectasis, scarring or small infiltrate.
Followup x-rays are recommended to document resolution." She was
transferred to ___ for evaluation.
 
In the ED, initial VS were:  T99.3 108 104/56 18 100% RA 
Labs were notable for:  WBC 1.9 with 7% bands, ANC 930. Chem-7
WNL. Lactate 1.1. UA neg.
Imaging included:  none
Treatments received:  
___ 15:29 IVF 1000 mL NS 1000 mL 
___ 16:32 IV CefePIME 2 g 

On arrival to the floor, patient had no acute complaints but
complained of generalized weakness and dyspnea on exertion with
occasional palpitations. She also recently had a LUE superficial
thrombus which was treated with warm compresses and has now
resolved.

REVIEW OF SYSTEMS:  per HPI, otherwise negative in 10-point
review
 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Dx'd grade ___ follicular lymphoma involving her cervical nodes
___. Cytogenetics showed 14q32 (IGH rearrangement). She 
noted
some neck pain in late ___ after slipping on the stairs,
following which she developed a left sided sore throat. She was
initially treated with Pen for tonsillar enlargement without
improvement and she was seen by Dr ___ in ENT who
appreciated extensive additional cervical adenopathy, confirmed
by chest and neck CT scans.  Endoscopic exam showed normal
vallecula, epiglottis, piriform sinus, false and true vocal
cords.  Her enlarged tonsillar tissue extends down to the
hypopharynx and slightly longer descent on the left than the
right.  FNA by Dr ___ lymphoma and she then underwent
an excisional bx at the ___ that confirmed a CD10+ B cell
follicular lymphoma.  Ki67 was ___.  She denies any wt loss,
fevers, night sweats or pruritis.  Continues to have discomfort
swallowing although feels a bit better since the largest node 
was
removed.   Mild pain left anterior chest for several weeks
intermittantly.  Wonders about possible chemical exposure 
growing
up near a airport where lots of chemicals were used.

Chest CT scan MEEI: No hilar or mediastinal adenopathy.  Mult
small liver lesions (? Cysts).

Exam notable for enlarged tonsils and bulky cervical and
supraclavicular nodes.

Labs showed normal CBC, LDH, immunoelectrophoresis  and slightly
elevated beta 2 microglobulin (2.7). Negative hep serologies. 
MRI showed multiple liver cysts. 

___: 4 weekly infusions of Rituxan.  Tolerated well. 
Adenopathy decreased but still present.

___: First maintenance Rituxan.

___ maintenance Rituxan deferred due to lesions on
tonsils.  Seen by Dr ___ felt they were tonsillar stones
and not worrisome.

___ maintenance Rituxan.  Small left low cervical nodes
present (2 cm).

___: PET scan at ___ - Massive conglomerate of lymph 
nodes
along the entire left cervical chain with intense FDG avidity
(14.4). No evidence of right sided cervical lymphadenopathy.  
1.5
cm non-FDG avid left breast mass.

___: Core bx of left cervical node showed follicular
lymphoma but with high Ki 67 index (5%-50% focally) and new
cytogenetic changes: 
CYTOGENETIC DIAGNOSIS:  
46,X,-X,?del(11)(q22q23),del(13)(q12q14),
der(14)t(14;18)(q32;q21)psu dic(1;14)(p13;q32),add(16)(p12),     

der(18)t(14;18)(q32;q21),+mar[8]/                                

46,XX[7]
INTERPRETATION/COMMENT:  55% of the metaphase lymph node cells
examinedhad an abnormal karyotype with the t(14;18)(q32;q21)
translocation thatFISH has confirmed has resulted in the 
IGH/BCL2
gene rearrangement (seebelow) and several other chromosome
aberrations.  There was no evidenceof rearrangement of the BCL6
and MYC genes.  These findings areconsistent with transformation
of low grade follicular lymphoma to a higher grade.

___: Cycle 1 Rit/CHOP.  Used chlortrimazole troches for
probable thrush.

___: Cycle 2 Rit/CHOP.

___: Cycle 3 Rit/CHOP. Pred tapered at end.

___: PET scan showed marked interval decrease in size and
avidity of left cervical mass. (SUV 3.3 from 14.4).  Mild
residual asymmetric soft tissue fullness.

___: Cycle 4 Rit/CHOP - pred taper.

___ Cycle 5 Rit/CHOP.
 
PAST MEDICAL HISTORY:  
-Malignant lymphoma, follicular 
-Basal cell carcinoma, excised on nose
-Vaginal prolapse s/p mesh

 
Social History:
___
Family History:
No malignancies.
 
Physical Exam:
VS:  98.0  100/60  85  18  99%RA
GEN:  Woman in no distress
HEENT:  No scleral icterus, OP clear without lesions
NECK:  No tonsillar or cervical lymphadenopathy
HEART:  RRR, normal S1 S2, no murmurs
LUNGS:  Clear, no wheezes or rales
ABD:  Soft, nontender, nondistended, normal bowel sounds
EXT:  No ___ edema, calves symmetric, 2+ DP and ___ pulses
NEURO:  Alert, oriented, interactive

 
Pertinent Results:
ADMISSION LABS:

___ 03:20PM BLOOD WBC-1.9* RBC-3.24* Hgb-10.1* Hct-31.0* 
MCV-96 MCH-31.2 MCHC-32.6 RDW-14.8 RDWSD-51.5* Plt ___
___ 03:20PM BLOOD Neuts-42 Bands-7* ___ Monos-22* 
Eos-2 Baso-0 ___ Metas-2* Myelos-0 AbsNeut-0.93* 
AbsLymp-0.48* AbsMono-0.42 AbsEos-0.04 AbsBaso-0.00*
___ 07:10AM BLOOD ___ PTT-27.3 ___
___ 03:20PM BLOOD Glucose-102* UreaN-15 Creat-0.9 Na-139 
K-3.5 Cl-102 HCO3-26 AnGap-15
___ 03:20PM BLOOD ALT-31 AST-20 LD(LDH)-165 AlkPhos-90 
TotBili-0.3
___ 03:20PM BLOOD Albumin-4.5 Calcium-9.6 Phos-3.2 Mg-2.0 
UricAcd-4.3
___ 03:27PM BLOOD Lactate-1.1

DISCHARGE LABS:

___ 07:10AM BLOOD WBC-3.8*# RBC-2.90* Hgb-9.0* Hct-27.8* 
MCV-96 MCH-31.0 MCHC-32.4 RDW-15.0 RDWSD-52.4* Plt ___
___ 07:10AM BLOOD Neuts-62 Bands-13* Lymphs-17* Monos-7 
Eos-0 Baso-1 ___ Myelos-0 AbsNeut-2.85 AbsLymp-0.65* 
AbsMono-0.27 AbsEos-0.00* AbsBaso-0.04
___ 07:10AM BLOOD Plt Smr-LOW Plt ___
___ 07:10AM BLOOD Glucose-94 UreaN-10 Creat-0.8 Na-139 
K-3.7 Cl-108 HCO3-24 AnGap-11
___ 07:10AM BLOOD Calcium-9.2 Phos-3.0 Mg-2.0

IMAGING:

CTA chest 
IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. No evidence of pneumonia. 
3. No lymphadenopathy. 
4. Multiple hepatic hypodensities in the liver may reflect cysts 
or biliary 
hamartomas. 

 
Brief Hospital Course:
___ with follicular lymphoma with aggressive features on C5D9 
R/CHOP, with Neulasta on ___, presenting with severe weakness 
and dyspnea on exertion, with moderate neutropenia and possible 
pneumonia.

# Neutropenic Fever - ANC on admission 930, temp 99 did not 
develop fever. Blood cultures sent, UA wnl, CXR at ___ 
concerning for pneumonia
# Weakness
# Dyspnea on exertion
The symptoms are likely due to chemotherapy. However, given 
moderate neutropenia and elevated temp she was treated 
empirically with IV antibiotics. UA was wnl, CT Chest did not 
show infection or embolus. She remained afebrile, WBC rapidly 
improved. No further indication for antibiotics. 

#DOE - Likely ___ deconditioning, anemia. CT chest negative for 
pneumonia, embolus or other lung abnormality.  Able to walk 
halls no resting or ambulatory hypoxia.
  
# Follicular lymphoma with aggressive features. Admitted on C5D9 
of Rituxan/CHOP.
- completed prednisone taper
- She will f/u with Dr ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Prochlorperazine 10 mg PO Q6H:PRN nausea 
3. Lorazepam 1 mg PO Q6H:PRN nausea, anxiety, sleep 
4. diclofenac sodium 1 % topical QID prn apply to site of pain 

 
Discharge Medications:
1. diclofenac sodium 1 % topical QID prn apply to site of pain 
2. Lorazepam 1 mg PO Q6H:PRN nausea, anxiety, sleep 
3. Ondansetron 8 mg PO Q8H:PRN nausea 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Shortness of breath
Neutropenic fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ - ___ was a pleasure caring for you during your 
stay at ___.  You were admitted with shortness of breath and 
concern for fever and low white blood count as well as possible 
pneumonia on chest xray. CT chest was performed which was 
normal, no pneumonia or blood clot.  Your white blood cell count 
has improved significantly today and you do not need to continue 
antibiotics. 
 
Followup Instructions:
___